US04612322
To a solution of 500 mg of 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-1,2-propanediol in 1 ml of dry pyridine is added 300 mg of phenyl chlorocarbonate, and the resultant mixture is allowed to react at room temperature for 18 hours. The reaction mixture is mixed with aqueous sodium hydrogencarbonate solution and shaken with methylene chloride. The organic layer is washed with water, dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica-gel, which is eluted with 2% methanolmethylene chloride. The eluate is concentrated and the residue is crystallized from ethyl acetate-isopropyl ether to give 466 mg of 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-2-oxo-4-(1H-1,2,4-triazol-1-yl)methyl-1,3-dioxolane as crystals melting at 178° to 179° C. The yield is 87%.

reactant | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)-1,2-propanediol | 500 mg | ClC1=CC=C(C=C1)C(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl)O | C17H14Cl3N3O2
reactant | phenyl chlorocarbonate | 300 mg | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-2-oxo-4-(1H-1,2,4-triazol-1-yl)methyl-1,3-dioxolane | 466 mg, yield is 87% | ClC1=CC=C(C=C1)C1C(OC(O1)=O)(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C18H12Cl3N3O3
